US07700798B1
1,2-Dihydro-1-methylnaphthalene ((±)-8) was prepared using a similar procedure to that reported in Ferraz et al., Tetrahedron, 57:1709ff (2001) (“Ferraz”), which is hereby incorporated by reference). The scheme is set forth in FIG. 7C. To a stirred solution of commercially available 4-methyl-α-tetralone (0.50 g, 3.12 mmol) in methanol (50 mL) was added NaBH4 (0.35 g, 9.36 mmol) portionwise. The reaction mixture was followed by TLC and, after complete consumption of the starting material (approx. 2 h), was quenched with saturated NaHCO3. The aqueous layer was extracted with diethyl ether, dried with magnesium sulfate (MgSO4), filtered, and the solvent was removed under reduced pressure. The crude alcohol was dissolved in toluene (15 mL), and a few crystals of p-TsOH were added. The reaction mixture was stirred overnight, then neutralized by slow addition of saturated sodium bicarbonate (NaHCO3) and extracted with diethyl ether. The combined organic layers where washed with brine, dried with magnesium sulfate (MgSO4), filtered, and the solvent was removed under reduced pressure. The product was purified by flash chromatography (SiO2, hexanes) to give 1,2-dihydro-1-methylnaphthalene ((±)-8) as a clear oil (0.35 g, 78% yield). The compound is volatile and cannot be dried for long periods (>30 min) under high vacuum. The spectroscopic data are consistent with previously reported data (Ferraz, which is hereby incorporated by reference).

reactant | 4-methyl-α-tetralone | 3.12 mmol, 0.50 g | CC1CCC(=O)C2=CC=CC=C12 | C11H12O
reactant | NaBH4 | 9.36 mmol, 0.35 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 1,2-dihydro-1-methylnaphthalene | CC1CC=CC2=CC=CC=C12 | C11H12
